US09371319B2
Preparation 158: 6-Bromo-1-(cyclopropylmethyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine
6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22, 100 mg, 0.36 mmole) was azeotroped with toluene (3 mL) and dissolved in DMF (1 mL). To the solution was added sodium hexamethyldisilazide, 1M in THF (0.4 mL, 0.4 mmole) and the reaction was stirred at room temperature for 20 minutes. Bromomethylcyclopropane (78 uL, 108 mg, 0.8 mmole) was added and the reaction was stirred at room temperature for 6 hours. Ethyl acetate (25 mL) was added and the solution was washed with water (3×10 mL) and with brine (5 mL), dried and evaporated in vacuo. The crude product was purified using preparative TLC eluting with ethyl acetate to afford the title compound (98 mg, 82%). 1H-NMR (CDCl3, 500 MHz): δ 0.23 (m, 2H), 0.55 (m, 2H), 1.12 (m, 1H), 4.03 (s, 3H), 4.07 (d, J=6.31 Hz, 2H), 6.54 (d, J=0.95 Hz, 1H), 7.45 (t, J=0.95 Hz, 1H), 7.61 (s, 1H), 7.71 (d, J=0.95 Hz, 1H), 8.61 (d, J=0.95 Hz, 1H).

reactant | 6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.36 mmole, 100 mg | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | THF | 0.4 mmole, 0.4 mL | C1CCOC1 | C4H8O
reactant | Bromomethylcyclopropane | 0.8 mmole, 78 uL, 108 mg | BrCC1CC1 | C4H7Br
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-1-(cyclopropylmethyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 98 mg, 82% | BrC1=CC2=C(C=N1)C=C(N2CC2CC2)C=2C=NN(C2)C | C15H15BrN4
